US07244763B2
Step 1. Preparation of 5-Methoxy-2-methyl-phenol (Compound TAA)
2-Hydroxy-4-methoxy-benzaldehyde (3 g, 19.7 mmol), ammonium formate (6.2 g, 99 mmol) and palladium/carbon (900 mg @ 10%) were added to 26 ml glacial acetic acid and heated at 110° C. for 1 h. The reaction was cooled, filtered, and diluted with water (100 ml). The crude product was extracted with chloroform (3×50 ml), washed with water, brine, and dried over anhydrous sodium sulfate. The resulting solution was concentrated and used for the next step without further purification. MS m/z 139 (M+1).

reactant | 2-Hydroxy-4-methoxy-benzaldehyde | 19.7 mmol, 3 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | ammonium formate | 99 mmol, 6.2 g | C(=O)[O-].[NH4+]
catalyst | palladium/carbon | 900 mg | [Pd] | Pd
solvent | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
product | 5-Methoxy-2-methyl-phenol | COC=1C=CC(=C(C1)O)C | C8H10O2
